US05811428
A solution of ethyl 2-hydroxy-4-pentafluoroethylpyrimidine-5-carboxylate (4.0 g, 13 mmol) and NaOH (1.60 g, 39 mmol) in EtOH (20 mL) and H2O (45 mL) was heated at reflux for 1 h. The solution was cooled and acidified (conc. HCl). The resulting solid was filtered and dried to provide 2-hydroxy-4-pentafluoroethylpyrimidine-5-carboxylic acid (3.3 g, 98% yield); 1H-NMR (DMSO-d6) δ 9.90 (bs, 1H), 8.43 (s, 1H).

reactant | ethyl 2-hydroxy-4-pentafluoroethylpyrimidine-5-carboxylate | 13 mmol, 4.0 g | OC1=NC=C(C(=N1)C(C(F)(F)F)(F)F)C(=O)OCC | C9H7F5N2O3
reactant | NaOH | 39 mmol, 1.60 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | H2O | 45 mL | O | H2O
product | 2-hydroxy-4-pentafluoroethylpyrimidine-5-carboxylic acid | 3.3 g, 98% yield | OC1=NC=C(C(=N1)C(C(F)(F)F)(F)F)C(=O)O | C7H3F5N2O3
